US04929549
Step B: Preparation of 5-Methoxycarbonylthieno[2,3-b]thiophene-2-sulfonamide
To stirred ammonium hydroxide (150 ml) was added dropwise 5-methoxycarbonylthieno[2,3-b]thiophene-2-sulfonyl chloride (11.58 g. 39.02 mmoles) dissolved in acetone (140 ml). After the addition was complete, the solution was stirred for 30 minutes. The reaction was worked up by evaporating the ammonia and acetone in vacuo. The crystals were collected and dried (9.66 g.) (89%). Recrystallization from nitromethane gave 7.02 g. mp 219°-220° C.

reactant | ammonium hydroxide | 150 ml | [OH-].[NH4+]
reactant | 5-methoxycarbonylthieno[2,3-b]thiophene-2-sulfonyl chloride | 39.02 mmoles, 11.58 g | COC(=O)C1=CC2=C(S1)SC(=C2)S(=O)(=O)Cl | C8H5ClO4S3
solvent | acetone | 140 ml | CC(=O)C | C3H6O
product | 5-Methoxycarbonylthieno[2,3-b]thiophene-2-sulfonamide | COC(=O)C1=CC2=C(S1)SC(=C2)S(=O)(=O)N | C8H7NO4S3
